US03931201
4-Chlorobenzenesulfenyl chloride (8.68 grams; 0.0496 mole) was added over a period of about 3 minutes to a solution of N' -(4-((6-chloro-2-pyridinyl)oxy)phenyl-N-methylurea (8.3 grams; 0.03 mole) in 50 ml. of dry pyridine. The resulting reaction mixture was stirred at a temperature of about 30°C. for a period of about one and one-half hours and then poured into 250 ml. of cold water. The resulting sticky product precipitate was dissolved in hot hexane, reprecipitated therefrom upon standing and the light-yellow, slightly sticky product obtained triturated with a small amount of cold acetonitrile. Filtration of the mixture gave the desired N-((4-chlorophenyl)thio)-N'-(4-((6-chloro-2-pyridinyl)oxy)phenyl)-N-methylurea compound as a white crystalline solid melting at 106°-109°C. The product was found to have carbon, hydrogen, nitrogen, chlorine and sulfur contents of 54.2, 3.5, 9.86, 17.0 and 7.46 percent, respectively, as compared with contents of 54.3, 3.6, 10.0, 16.87 and 7.6 percent, respectively, as calculated for the named structure.

reactant | 4-Chlorobenzenesulfenyl chloride | 0.0496 mole, 8.68 grams | ClC1=CC=C(C=C1)SCl | C6H4Cl2S
reactant | 4-((6-chloro-2-pyridinyl)oxy)phenyl-N-methylurea | 0.03 mole, 8.3 grams | ClC1=CC=CC(=N1)OC1=CC=C(C=C1)N(C(=O)N)C | C13H12ClN3O2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | water | O | H2O
solvent | hexane | CCCCCC | C6H14
product | N-((4-chlorophenyl)thio)-N'-(4-((6-chloro-2-pyridinyl)oxy)phenyl)-N-methylurea | ClC1=CC=C(C=C1)SN(C(=O)NC1=CC=C(C=C1)OC1=NC(=CC=C1)Cl)C | C19H15Cl2N3O2S
